US06841554B2
A solution of methylamine in methanol (1.4 ml of a 40% solution) was added with stirring to a solution of (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoic acid (obtained as described below) at −5° C. The mixture was stirred at 30° C. for 90 minutes and then cooled to 3° C. The crystalline product was collected by filtration, washed with acetonitrile and dried under vacuum at 40° C. to give methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (3.85 g; 87.9% yield) as white crystals. (The same crystalline salt was obtained when a 40% solution of methylamine in water (1.1 ml) was used). The X-ray powder diffraction spectra (XRD) for a typical sample of the crystalline methylammonium salt is shown in FIG. 2 hereinafter. The ten most prominent peaks in the XRD occur at about 2-theta=8.2, 12.3, 15.7, 16.5, 17.6, 18.7,19.9, 21.0, 24.3 and 25.9°.

reactant | methylamine | CN | CH5N
reactant | (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoic acid | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)O)O)O)C(C)C)N(S(=O)(=O)C)C | C22H28FN3O6S
solvent | methanol | CO | CH4O
product | methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 3.85 g, 87.9% yield | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.C[NH3+] | InChI=1S/C22H28FN3O6S.CH5N/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;1-2/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);2H2,1H3/b10-9+;/t16-,17-;/m1./s1
